US04406909
36 g (0.159 mol) of 1-(4-chlorophenoxy)-2,2-dimethyl-butan-3-one were dissolved in 300 ml of chloroform, and 25.5 g (0.159 mol) of bromine were added dropwise at 20° C. in a manner such that continuous decolorization occurred. After the addition, the mixture was stirred at room temperature for 30 minutes and was then concentrated by distilling off the solvent in vacuo. 48.5 g (quantitative conversion) of crude 1-bromo-4-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one were obtained as an oil.

reactant | 1-(4-chlorophenoxy)-2,2-dimethyl-butan-3-one | 0.159 mol, 36 g | ClC1=CC=C(OCC(C(C)=O)(C)C)C=C1 | C12H15ClO2
reactant | bromine | 0.159 mol, 25.5 g | BrBr | Br2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-bromo-4-(4-chlorophenoxy)-3,3-dimethyl-butan-2-one | 48.5 g | BrCC(C(COC1=CC=C(C=C1)Cl)(C)C)=O | C12H14BrClO2
